US05023283
N-[2-Methoxycarbonylethyl]diethanolamine starting product
A mixture of 10.5 grams of diethanolamine and 17.2 grams of methyl acrylate is heated under reflux for 24 hours. The excess methyl acrylate is removed under reduced pressure and the residue is purified using flash chromatography to afford the title compound as a thick oil.

reactant | diethanolamine | 10.5 grams | N(CCO)CCO | C4H11NO2
reactant | methyl acrylate | 17.2 grams | C(C=C)(=O)OC | C4H6O2
product | N-[2-Methoxycarbonylethyl]diethanolamine | COC(=O)CCN(CCO)CCO | C8H17NO4
